US04086242
Preparation of 4-Nitro-1H-benzotriazole
To a cooled solution (20° C.) of 1,060 ml. of 23% fuming sulfuric acid and 265 ml. of 90% nitric acid is added in a dropwise fashion a solution of 537 g. of benzotriazole in 1000 ml. of concentrated sulfuric acid. The temperature is not allowed to go above 50° C. At the end of the addition, the reaction mixture is allowed to stand at room temperature overnight. The reaction mixture is then poured over ice and water and a heavy yellow precipitate forms. The solid is collected by filtration, washed with water and dried. The solid, which is a mixture of the 4-nitro (90%) and the 5-nitro (10%) products, is then slurried with 7.5 l. of hot acetonitrile cooled and 537 g. (73%) of 4-nitrobenzotriazole is collected by filtration, m.p. 228°-231° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
solvent | water | O | H2O
product | 4-Nitro-1H-benzotriazole | [N+](=O)([O-])C1=CC=CC=2NN=NC21 | C6H4N4O2
